US08633173B2
2-Chloro-8-(3-isobutoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 3-isobutoxyphenylboronic acid in a manner analogous to Example 2c (0.39 g, 60%). MS=302 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 3-isobutoxyphenylboronic acid | C(C(C)C)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 2-Chloro-8-(3-isobutoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=CC(=CC=C2)OCC(C)C)=N1 | C16H16ClN3O
